US08735362B2
To a solution of 4-[5-(3,5-Dichloro-4-cyano-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid tert-butyl ester (763 mg) in dichloromethane (9 ml) was added trifluoromethyl acetic acid (“TFA”) (0.9 ml). The reaction mixture was stirred at ambient temperature for 20 hours. Ethyl acetate was added and the mixture was washed with water, dried over sodium sulfate and concentrated to give 4-[5-(3,5-Dichloro-4-cyano-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid. 19F-NMR (CDCl3, 75 MHz): −78.91 ppm.

reactant | 4-[5-(3,5-Dichloro-4-cyano-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid tert-butyl ester | 763 mg | C(C)(C)(C)OC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)C#N)Cl)C)=O | C23H19Cl2F3N2O3
reactant | trifluoromethyl acetic acid | 0.9 ml | FC(F)(F)CC(=O)O | C3H3F3O2
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 9 ml | ClCCl | CH2Cl2
product | 4-[5-(3,5-Dichloro-4-cyano-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoic acid | ClC=1C=C(C=C(C1C#N)Cl)C1(CC(=NO1)C1=CC(=C(C(=O)O)C=C1)C)C(F)(F)F | C19H11Cl2F3N2O3
